US07060503B2
A. 3,4-Dihydroxy-9,10-dioxo-2-anthracenesulfonyl chloride:
3,4-dihydroxy-9,10-dioxo-2-anthracenesulfonic acid sodium salt (1.4 g, 3.9 mmoles) was combined with 30 mL of chlorosulfonic acid and heated to 90° C. for 5 hours, after which the solution was cooled to 0° C. and poured into 100 g of ice. After the ice melted the solution was extracted with CH2Cl2 (3×100 mL), methylene chloride extracts were combined, dried with Na2SO4 and evaporated to produce 0.87 g of solid (Yield 66%).

reactant | 3,4-dihydroxy-9,10-dioxo-2-anthracenesulfonic acid sodium salt | 3.9 mmoles, 1.4 g | [Na+].OC=1C(=CC=2C(C3=CC=CC=C3C(C2C1O)=O)=O)S(=O)(=O)[O-]
reactant | chlorosulfonic acid | 30 mL | ClS(=O)(=O)O | ClHO3S
product | 3,4-Dihydroxy-9,10-dioxo-2-anthracenesulfonyl chloride | 0.87 g, Yield 66% | OC=1C(=CC=2C(C3=CC=CC=C3C(C2C1O)=O)=O)S(=O)(=O)Cl | C14H7ClO6S
